US05556860
(b) Synthesis of 3-[1-(3-methoxycarbonylbenzyl)-piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone
To a solution of 300 mg (0.56 mmol) of 3-[1-(3-benzyloxycarbonylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 20 mL of methanol was added 8 mg (0.06 mmol) of potassium carbonate and the mixture was stirred for 12 hours at ambient temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer separated was washed with brine, dried on sodium sulfate and concentrated in vacuo. The residue was purified by means of column chromatography (silica gel, 1:9 methanol:chloroform) to give 179 mg (0.39 mmol) of the title compound.

reactant | 3-[1-(3-benzyloxycarbonylbenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.56 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C34H33N3O3
reactant | potassium carbonate | 0.06 mmol, 8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 3-[1-(3-methoxycarbonylbenzyl)-piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)quinazolinone | 0.39 mmol, 179 mg | COC(=O)C=1C=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=CC1 | C28H29N3O3
